US08981084B2
N-Bromosuccinimide (3.22 g, 18.13 mmol) was added to a solution of 4-(4-fluorophenyl)-2-methylthiazole (3.5 g, 18.13 mmol) in CCl4 (30.0 mL) and the reaction was refluxed at 80° C. overnight. The reaction mixture was then diluted with CH2Cl2, washed with water and brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to yield crude 2-(bromomethyl)-4-(4-fluorophenyl)thiazole (5 g), which was carried through without further purification. 1H NMR (400 MHz, DMSO) δ 8.18 (s, 1H), 7.93-8.01 (m, 2H), 7.26-7.31 (m, 2H), 5.07 (s, 2H). MS (ESI) m/z: Calculated for C10H7BrFNS: 272.94. found: 273.9 (M+H)+

reactant | N-Bromosuccinimide | 18.13 mmol, 3.22 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-(4-fluorophenyl)-2-methylthiazole | 18.13 mmol, 3.5 g | FC1=CC=C(C=C1)C=1N=C(SC1)C | C10H8FNS
solvent | CCl4 | 30.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(bromomethyl)-4-(4-fluorophenyl)thiazole | 5 g | BrCC=1SC=C(N1)C1=CC=C(C=C1)F | C10H7BrFNS
